US03952104
Anhydrous ammonia gas was passed through a stirred solution of 38.4 parts of 8-allyl-5-tetrahydrofurfuryloxy-4-oxo-4H-1-benzopyran-2-carboxylic acid ethyl ester in 600 parts of anhydrous ethanol at 45° C for 3 hours. The resulting dark, reddish brown solution was cooled to 0° C. A white crystalline solid was formed, which was collected and dried in vacuo. 24.7 Parts of 8-allyl-5-tetrahydrofurfuryloxy-4-oxo-4H-1-benzopyran-2-carboxamide were obtained, melting point 211.5°-213.5° C.

reactant | ammonia | N | H3N
reactant | 8-allyl-5-tetrahydrofurfuryloxy-4-oxo-4H-1-benzopyran-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1OC2=C(C(C1)=O)C(=CC=C2CC=C)OCC2CCCO2 | C20H22O6
solvent | ethanol | C(C)O | C2H6O
product | 8-allyl-5-tetrahydrofurfuryloxy-4-oxo-4H-1-benzopyran-2-carboxamide | C(C=C)C1=CC=C(C=2C(C=C(OC21)C(=O)N)=O)OCC2CCCO2 | C18H19NO5
